US07291635B2
To a solution of 1.15 g (8.08 mmol) of chlorosulfonyl isocyanate in 10 mL of CH2Cl2 is added dropwise a solution of 598 mg (8.08 mmol) of t-butanol in 2 mL of CH2Cl2. The solution is stirred at RT for 45 min, then a solution of 1.3 g (5.8 mmol) of the title A compound, (2,4-dimethoxyphenylamino)-acetic acid methyl ester and 1.2 g (11.9 mmol) of TEA in 4 mL of CH2Cl2 is added dropwise. The mixture is stirred at RT for 90 min, then washed with water. The organic phase is dried over anhydrous Na2SO4 and the solvent is removed under reduced pressure. The residual oil is purified by chromatography using 10% EtOAc in CH2Cl2 as the eluant to give N-(t-butoxycarbonylsulfamoyl)-N-(2,4-dimethoxy-phenyl)glycine methyl ester as a thick yellow oil: 1H-NMR (CDCl3) δ 7.57 (d, J=9.19, 1H), 7.19 (s, 1H), 6.51-6.46 (m, 2H), 4.55 (br s, 2H), 3.82 (s, 3H), 3.80 (s, 3H), 3.71 (s, 3H), 1.53 (s, 9H); [M−1]−=403.

reactant | chlorosulfonyl isocyanate | 8.08 mmol, 1.15 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | t-butanol | 8.08 mmol, 598 mg | C(C)(C)(C)O | C4H10O
reactant | (2,4-dimethoxyphenylamino)-acetic acid methyl ester | COC(CNC1=C(C=C(C=C1)OC)OC)=O | C11H15NO4
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | N-(t-butoxycarbonylsulfamoyl)-N-(2,4-dimethoxy-phenyl)glycine methyl ester | COC(CN(C1=C(C=C(C=C1)OC)OC)S(NC(=O)OC(C)(C)C)(=O)=O)=O | C16H24N2O8S
